US05665718
17.08 g (97 mmol) of BOC-glycine were dissolved in 165 ml of N,N-dimethylformamide and treated portionwise with 16.9 g (104 mmol) of 1,1'-carbonyldiimidazole. After completion of the CO2 evolution the solution was stirred at 50° for 30 min. Then, 30.8 g (91mmol) of (S)-8-chloro-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamidoxime were added and the mixture was stirred at 90° overnight. By evaporation of the solution and chromatography of the residue on 1.5 kg of silica gel while eluting with methylene chloride/methanol 19/1 there were obtained 36.8 g (84%) of (S)-1-[5-(BOC-aminomethyl)-1,2,4-oxadiazol-3-yl]-8-chloro-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one, which was used in the next step without further purification.

reactant | BOC-glycine | 97 mmol, 17.08 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | 1,1'-carbonyldiimidazole | 104 mmol, 16.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | CO2 | C(=O)=O | CO2
reactant | (S)-8-chloro-7-fluoro-12,12a-dihydro-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxamidoxime | 91mmol, 30.8 g | ClC1=C(C=CC2=C1C(N1[C@H](C=3N2C=NC3C(N)=NO)CC1)=O)F | C14H11ClFN5O2
solvent | N,N-dimethylformamide | 165 ml | CN(C=O)C | C3H7NO
product | (S)-1-[5-(BOC-aminomethyl)-1,2,4-oxadiazol-3-yl]-8-chloro-7-fluoro-12,12a-dihydro-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepin-9-one | 36.8 g, 84% | C(=O)(OC(C)(C)C)C(C1=NC(=NO1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CC(=C3Cl)F)=O)CC1)N | C21H20ClFN6O4
